US07084155B2
Preparation of [4-(Pyridin-2-ylaminomethyl)-phenyl]-methanol
Using general procedure B: Reaction of 4-hydroxymethyl-benzaldehyde (1.01 g, 7.42 mmol), 2-aminopyridine (697 mg, 7.42 mmol), acetic acid (0.5 mL) and sodium triacetoxyborohydride (3.2 g, 14.8 mmol) in THF (20 mL) at room temperature under N2 for 40 min., then one hour at 50° C., followed by purification of crude material using chromatography on silica gel (2:2:96 CH3OH—NH3 H2O—CH2Cl2), afforded the title compound (1.17 g, 74%) as white foam.

reactant | 4-hydroxymethyl-benzaldehyde | 7.42 mmol, 1.01 g | OCC1=CC=C(C=O)C=C1 | C8H8O2
reactant | 2-aminopyridine | 7.42 mmol, 697 mg | NC1=NC=CC=C1 | C5H6N2
reactant | acetic acid | 0.5 mL | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 14.8 mmol, 3.2 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | [4-(Pyridin-2-ylaminomethyl)-phenyl]-methanol | 1.17 g, 74% | N1=C(C=CC=C1)NCC1=CC=C(C=C1)CO | C13H14N2O
